US07045544B2
Ethyl 5-[(3,3-dimethylbutanoyl)amino]-1H-indole-2-carboxylate
3.76 g (18.4 mmol) of ethyl 5-amino-1H-indole-2-carboxylate from Example LXI and 2.05 g (2.82 ml, 20.3 mmol) of triethylamine are added to 40 ml of THF. The mixture is cooled to 0° C., and a solution of 2.48 g (2.56 ml, 18.4 mmol) of 3,3-dimethylbutyryl chloride in 20 ml of THF are added. The mixture is stirred at RT for 2 h and, for work-up, poured into water. The pH is adjusted to 7 and the mixture is extracted 3 times with ethyl acetate. The combined organic phases are dried with sodium sulphate, filtered and dried under reduced pressure.

reactant | ethyl 5-amino-1H-indole-2-carboxylate | 18.4 mmol, 3.76 g | NC=1C=C2C=C(NC2=CC1)C(=O)OCC | C11H12N2O2
reactant | triethylamine | 20.3 mmol, 2.82 ml, 2.05 g | C(C)N(CC)CC | C6H15N
reactant | 3,3-dimethylbutyryl chloride | 18.4 mmol, 2.56 ml, 2.48 g | CC(CC(=O)Cl)(C)C | C6H11ClO
reactant | water | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | Ethyl 5-[(3,3-dimethylbutanoyl)amino]-1H-indole-2-carboxylate | CC(CC(=O)NC=1C=C2C=C(NC2=CC1)C(=O)OCC)(C)C | C17H22N2O3
